US08049016B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
2-(3-Benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid (1.50 g, 4.72 mmol) and 4-methylmorpholine (0.60 mL, 5.45 mmol) in tetrahydrofuran (100 mL) was added isobutyl chloroformate (0.62 mL, 4.73 mmol) at 0° C. The resulting mixture was stirred at ambient temperature for 1 hour and followed by the addition of ammonia (7.0 N solution in methanol, 10 mL, 70 mmol). The reaction mixture was kept stirring at ambient temperature for 19 hours. The solvent was removed in vacuo and the residue was triturated with 10% sodium hydroxide solution. The solid was collected by filtration and washed with water to afford the title compound in 30% yield (0.47 g): mp 217-218° C. (water); 1H NMR (300 MHz, DMSO-d6) δ 7.42-7.27 (m, 7H), 4.40 (s, 2H), 3.93-3.88 (m, 2H), 3.48-3.42 (m, 2H), 2.42 (s, 3H); MS (ES+) m/z 317.2 (M+1).

reactant | 2-(3-Benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | 4.72 mmol, 1.50 g | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
reactant | 4-methylmorpholine | 5.45 mmol, 0.60 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 4.73 mmol, 0.62 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | ammonia | 70 mmol, 7.0 N, 10 mL | N | H3N
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | 30% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)N)=O | C15H16N4O2S
